*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-102_freq port1 port2 PARAMS: Cpar=0.21pF Ind=1uH
X1 port1 port2 Model2A PARAMS:
+ R1=150
+ R2=0.62
+ C= {Cpar}
+ K1=0.0007
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=29276.0861
.ends 1008LS-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-122_freq port1 port2 PARAMS: Cpar=0.158pF Ind=1.2uH
X1 port1 port2 Model2A PARAMS:
+ R1=369
+ R2=0.6
+ C= {Cpar}
+ K1=0.000741
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19999.2429
.ends 1008LS-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-152_freq port1 port2 PARAMS: Cpar=0.185pF Ind=1.5uH
X1 port1 port2 Model2A PARAMS:
+ R1=369
+ R2=0.7
+ C= {Cpar}
+ K1=0.000761
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=21391.0771
.ends 1008LS-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-182
* Inductance = 1.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-182_freq port1 port2 PARAMS: Cpar=0.186pF Ind=1.8uH
X1 port1 port2 Model2A PARAMS:
+ R1=384
+ R2=0.8
+ C= {Cpar}
+ K1=0.00084
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24504.9365
.ends 1008LS-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-222_freq port1 port2 PARAMS: Cpar=0.168pF Ind=2.2uH
X1 port1 port2 Model2A PARAMS:
+ R1=384
+ R2=1.1
+ C= {Cpar}
+ K1=0.00094
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=32988.5036
.ends 1008LS-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-272
* Inductance = 2.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-272_freq port1 port2 PARAMS: Cpar=0.181pF Ind=2.7uH
X1 port1 port2 Model2A PARAMS:
+ R1=426
+ R2=1.2
+ C= {Cpar}
+ K1=0.00125
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33737.0724
.ends 1008LS-272_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-332_freq port1 port2 PARAMS: Cpar=0.309pF Ind=3.3uH
X1 port1 port2 Model2A PARAMS:
+ R1=261
+ R2=1.4
+ C= {Cpar}
+ K1=0.00145
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=38374.0371
.ends 1008LS-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-392
* Inductance = 3.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-170MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-392_freq port1 port2 PARAMS: Cpar=0.349pF Ind=3.9uH
X1 port1 port2 Model2A PARAMS:
+ R1=252
+ R2=1.5
+ C= {Cpar}
+ K1=0.00147
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=41635.6488
.ends 1008LS-392_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-432
* Inductance = 4.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-432_freq port1 port2 PARAMS: Cpar=0.35pF Ind=4.3uH
X1 port1 port2 Model2A PARAMS:
+ R1=100
+ R2=1.7
+ C= {Cpar}
+ K1=0.012
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=51970.6767
.ends 1008LS-432_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-170MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-472_freq port1 port2 PARAMS: Cpar=0.285pF Ind=4.7uH
X1 port1 port2 Model2A PARAMS:
+ R1=273
+ R2=1.6
+ C= {Cpar}
+ K1=0.00179
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=56223.3383
.ends 1008LS-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-502
* Inductance = 5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-502_freq port1 port2 PARAMS: Cpar=0.3pF Ind=5uH
X1 port1 port2 Model2A PARAMS:
+ R1=125
+ R2=2.2
+ C= {Cpar}
+ K1=0.018
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=50565.3291
.ends 1008LS-502_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-562
* Inductance = 5.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-140MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-562_freq port1 port2 PARAMS: Cpar=0.37pF Ind=5.6uH
X1 port1 port2 Model2A PARAMS:
+ R1=179
+ R2=1.8
+ C= {Cpar}
+ K1=0.00206
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=75509.1258
.ends 1008LS-562_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-622
* Inductance = 6.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-622_freq port1 port2 PARAMS: Cpar=0.39pF Ind=6.2uH
X1 port1 port2 Model2A PARAMS:
+ R1=100
+ R2=2.5
+ C= {Cpar}
+ K1=0.01
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=79078.1985
.ends 1008LS-622_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-130MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-682_freq port1 port2 PARAMS: Cpar=0.345pF Ind=6.8uH
X1 port1 port2 Model2A PARAMS:
+ R1=242
+ R2=2
+ C= {Cpar}
+ K1=0.00282
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=72910.9927
.ends 1008LS-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-110MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-822_freq port1 port2 PARAMS: Cpar=0.445pF Ind=8.2uH
X1 port1 port2 Model2A PARAMS:
+ R1=224
+ R2=2.6
+ C= {Cpar}
+ K1=0.00347
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=72174.8722
.ends 1008LS-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-912
* Inductance = 9.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-912_freq port1 port2 PARAMS: Cpar=1.1pF Ind=9.1uH
X1 port1 port2 Model2A PARAMS:
+ R1=60
+ R2=2.9
+ C= {Cpar}
+ K1=0.023
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=37146.6553
.ends 1008LS-912_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-103_freq port1 port2 PARAMS: Cpar=0.385pF Ind=10uH
X1 port1 port2 Model2A PARAMS:
+ R1=300
+ R2=2.9
+ C= {Cpar}
+ K1=0.00389
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=77665.3721
.ends 1008LS-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-123
* Inductance = 12uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-123_freq port1 port2 PARAMS: Cpar=0.62pF Ind=12uH
X1 port1 port2 Model2A PARAMS:
+ R1=100
+ R2=3.3
+ C= {Cpar}
+ K1=0.022
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=72280.5903
.ends 1008LS-123_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-153_freq port1 port2 PARAMS: Cpar=0.82pF Ind=15uH
X1 port1 port2 Model2A PARAMS:
+ R1=90
+ R2=3.7
+ C= {Cpar}
+ K1=0.034
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=57435.0759
.ends 1008LS-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-183
* Inductance = 18uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-183_freq port1 port2 PARAMS: Cpar=2pF Ind=18uH
X1 port1 port2 Model2A PARAMS:
+ R1=50
+ R2=4
+ C= {Cpar}
+ K1=0.032
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=41970.4266
.ends 1008LS-183_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-223_freq port1 port2 PARAMS: Cpar=0.96pF Ind=22uH
X1 port1 port2 Model2A PARAMS:
+ R1=80
+ R2=6.14
+ C= {Cpar}
+ K1=0.037
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=77065.1739
.ends 1008LS-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-273
* Inductance = 27uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-273_freq port1 port2 PARAMS: Cpar=3.8pF Ind=27uH
X1 port1 port2 Model2A PARAMS:
+ R1=60
+ R2=6.45
+ C= {Cpar}
+ K1=0.035
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=35816.0564
.ends 1008LS-273_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-333_freq port1 port2 PARAMS: Cpar=0.8pF Ind=33uH
X1 port1 port2 Model2A PARAMS:
+ R1=125
+ R2=7
+ C= {Cpar}
+ K1=0.055
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=95817.8771
.ends 1008LS-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-393
* Inductance = 39uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-393_freq port1 port2 PARAMS: Cpar=0.52pF Ind=39uH
X1 port1 port2 Model2A PARAMS:
+ R1=150
+ R2=10
+ C= {Cpar}
+ K1=0.06
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=148176.376
.ends 1008LS-393_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-473_freq port1 port2 PARAMS: Cpar=2.7pF Ind=47uH
X1 port1 port2 Model2A PARAMS:
+ R1=75
+ R2=10.7
+ C= {Cpar}
+ K1=0.045
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=71380.4779
.ends 1008LS-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-563
* Inductance = 56uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-563_freq port1 port2 PARAMS: Cpar=5.1pF Ind=56uH
X1 port1 port2 Model2A PARAMS:
+ R1=50
+ R2=10
+ C= {Cpar}
+ K1=0.05
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1008LS-563_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-683_freq port1 port2 PARAMS: Cpar=4.2pF Ind=68uH
X1 port1 port2 Model2A PARAMS:
+ R1=75
+ R2=13.5
+ C= {Cpar}
+ K1=0.07
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1008LS-683_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008LS-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008LS-104_freq port1 port2 PARAMS: Cpar=7.5pF Ind=100uH
X1 port1 port2 Model2A PARAMS:
+ R1=60
+ R2=20.5
+ C= {Cpar}
+ K1=0.063
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1008LS-104_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
